*  Generated for: PrimeSim
*  Design library name: group8
*  Design cell name: write_logic
*  Design view name: schematic
.option search='/mnt/designkits/ncsu/FreePDK3/hspice/models'


.option PARHIER = LOCAL
.option PORT_VOLTAGE_SCALE_TO_2X = 1
.option S_ELEM_CACHE_DIR = "/mnt/ncsudrive/h/hrajesh/.synopsys_custom/sparam_dir"
.option PVA_OUTPUT_DIR = "/mnt/ncsudrive/h/hrajesh/.synopsys_custom/pva_dir"

.option WDF=1
.temp 25
.lib 'fet.mod' nfet_typ
.lib 'fet.mod' pfet_typ

*PrimeWave Design Environment Based on Custom Infrastructure
*Version W-2024.09-SP1-2
*Wed Mar 26 00:12:10 2025

.global gnd! vdd!
********************************************************************************
* Library          : group8
* Cell             : inv
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt inv in out
m0 out in vdd! pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m1 out in gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
.ends inv

********************************************************************************
* Library          : group8
* Cell             : write_logic
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
xi13 write_data net4 inv
xi14 net4 net3 inv
m7 net3 write_enable bl_bar pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n
+ pseo=117n
m6 net4 write_enable bl pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
v10 write_enable gnd! dc=0 pulse ( 0 0.8 0p 5p 5p 45p 100p )
v8 write_data gnd! dc=0 pulse ( 0.8 0 0 5p 5p 45p 100p )
v16 vdd! gnd! dc=0.8









.tran 0.1p 300p start=0
.option opfile=1 split_dp=1
.option probe=1
.probe tran v(*) level=1
.probe tran v(bl) v(bl_bar) v(write_enable) v(net3) v(net4) v(write_data)








.end
